### PR TITLE
[Merged by Bors] - feat: port Algebra.CharP.Two

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/CharP/Two.lean [hunk 1]
```diff
@@ -125,19 +129,18 @@ section ringChar
 variable [Ring R]
 
 theorem neg_one_eq_one_iff [Nontrivial R] : (-1 : R) = 1 ↔ ringChar R = 2 := by
-  refine' ⟨fun h => _, fun h => @CharTwo.neg_eq _ (ringChar.of_eq h) 1⟩
+  refine' ⟨fun h => _, fun h => @CharTwo.neg_eq _ _ (ringChar.of_eq h) 1⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/CharP/Two.lean:132]: Why is there now an extra argument to `CharTwo.neg_eq`?

Comment (eric-wieser) [reply Mathlib/Algebra/CharP/Two.lean:132]: Oh nevermind, I guess this is just a mathport failure
